US08912200B2
Step 20: 2-(5-Chloro-2-methylphenyl)-4-iodo-5-[2-(methylamino)pyrimidin-4-yl]-1H-pyrrole-3-carboxamide (XXIV)
N-iodosuccinimide (301 mg, 1.34 mmol) was added to a solution of 2-(5-chloro-2-methylphenyl)-5-[2-(methylamino)pyrimidin-4-yl]-1H-pyrrole-3-carboxamide (433 mg, 1.27 mmol) in dry DMF (5 mL). The reaction mixture was stirred at room temperature for 5 h and poured into iced water (50 mL). The solid was then filtered with suction, washed thoroughly with water, dried in an oven under vacuum at 50° C. and purified by flash chromatography over silica gel (DCM/MeOH/7 N NH3 in MeOH 95/5/0.5) to afford the title compound (344 mg, 58%).

reactant | N-iodosuccinimide | 1.34 mmol, 301 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | 2-(5-chloro-2-methylphenyl)-5-[2-(methylamino)pyrimidin-4-yl]-1H-pyrrole-3-carboxamide | 1.27 mmol, 433 mg | ClC=1C=CC(=C(C1)C=1NC(=CC1C(=O)N)C1=NC(=NC=C1)NC)C | C17H16ClN5O
reactant | water | 50 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(5-Chloro-2-methylphenyl)-4-iodo-5-[2-(methylamino)pyrimidin-4-yl]-1H-pyrrole-3-carboxamide | 344 mg, 58% | ClC=1C=CC(=C(C1)C=1NC(=C(C1C(=O)N)I)C1=NC(=NC=C1)NC)C | C17H15ClIN5O
